US07396844B1
Synthesis of 1-(4-cyanobenzoyl)-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine
70 mg (0.23 mmol) of 1-t-butoxycarbonyl-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine was dissolved in a dioxane solution containing 4 N hydrogen chloride and then stirred at room temperature for 3 hours. The solvent was distilled off to obtain the crude de-t-butoxycarbonyl product. 38 mg (0.25 mmol) of 4-cyano-benzoic acid was dissolved in 3 ml of dimethylformamide, and 100 mg (1 mmol) of N-methyl morpholine and 25 mg (0.23 mmol) of ethyl chloroformate were added thereto and stirred at 0° C. for 5 minutes, and the crude de-t-butoxycarbonyl product was added thereto and stirred at room temperature for 2 hours. The reaction solution was treated in an ordinary manner with ethyl acetate as the extractant to obtain the title compound.

reactant | 1-t-butoxycarbonyl-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine | 0.23 mmol, 70 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC(=CC=C1)C#N | C17H22N2O3
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | 4-cyano-benzoic acid | 0.25 mmol, 38 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | N-methyl morpholine | 1 mmol, 100 mg | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.23 mmol, 25 mg | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-cyanobenzoyl)-(2R)-2-[(3-cyanophenoxy)methyl]pyrrolidine | C(#N)C1=CC=C(C(=O)N2[C@H](CCC2)COC2=CC(=CC=C2)C#N)C=C1 | C20H17N3O2
